US20010044515A1
Dihydrocyclopentaphenanthrene, H2CPA
A mixture of 2 g cyclopentaphenanthrene, 0.2 g 10% palladium on carbon and 50 mL toluene was stirred under hydrogen (69 kPa) until hydrogen uptake ceased, about 48 h. Catalyst was removed by filtration through diatomaceous earth and the filtrate evaporated. The crude product remaining weighed 1.97 g. It was further purified by recrystallization from heptane at −40° C. to give 1.8 g colorless plates. Spectroscopic and chemical analysis confirmed the identity of the desired compound.

reactant | cyclopentaphenanthrene | 2 g | C1C=CC2=C1C1=CC=CC=C1C=1C=CC=CC21 | C17H12
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 0.2 g | [Pd] | Pd
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | Dihydrocyclopentaphenanthrene | C1CCC2=C1C1=CC=CC=C1C=1C=CC=CC21 | C17H14
